US06048664
Norbornen-5-ol (25 g) was dissolved at 55° C. in 100 mL of formic acid (96%). Unless otherwise specified, all of the reagents specified in the examples herein are obtained from the Aldrich Chemical Co. After 2 hours gas chromatography (GC) indicated that all norbornen-5-ol was consumed. The reaction mixture was cooled down and 100 mL of ether was added. Then, the reaction mixture was extracted with 10×100 mL of water. The organic layer was separated, dried and ether was removed. The product was distilled at 75° C. (20 mm Hg). Yield: 17 g, 54% (95% pure by GC, no OH peak by IR). The same procedure afforded formyl ester of norbornen-5-methanol with 37% yield (b. p. 85° C., 20 mm Hg, 96% pure by GC).

reactant | Norbornen-5-ol | 25 g | C12C=CC(C(C1)O)C2 | C7H10O
reactant | formic acid | 100 mL | C(=O)O | CH2O2
product | norbornen-5-methanol | 37% yield | C12C=CC(C(C1)CO)C2 | C8H12O
